US08557766B2
<Step 1> Synthesis of (1-(2,6-dimethylphenyl)pyrrolidin-3-yl)methanol
To a solution of 2-bromo-1,3-dimethylbenzene (500 mg), pyrrolidine-3-yl methanol hydrochloride (409 mg), bis(dibenzylideneacetone) palladium (155 mg), and 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (SPhos; 222 mg) in tetrahydrofuran (5 mL), molecular sieves 4A (powder; 410 mg) were added. To the mixed solution, a solution (8.9 mL) of 1.0 M lithium hexamethyldisilazide in tetrahydrofuran was added, and the resultant reaction mixture was heated and refluxed for 2.5 hours. To the reaction solution, saturated sodium bicarbonate water and ethyl acetate were added, and the resultant reaction mixture was extracted with ethyl acetate. The organic phase was washed with a saturated saline and was dried over anhydrous sodium sulfate. From the organic phase, the solvent was distilled off under reduced pressure, followed by purifying the resultant residue by silica gel column chromatography (eluate; n-hexane:ethyl acetate=100:0 to 75:25), and from the resultant, the solvent was distilled off under reduced pressure to obtain the subject compound (154 mg) as a yellow oily substance.

reactant | 2-bromo-1,3-dimethylbenzene | 500 mg | BrC1=C(C=CC=C1C)C | C8H9Br
reactant | pyrrolidine-3-yl methanol hydrochloride | 409 mg | Cl.N1CC(CC1)CO
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 222 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | lithium hexamethyldisilazide | 1.0 M, 8.9 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | bis(dibenzylideneacetone) palladium | 155 mg | [Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1-(2,6-dimethylphenyl)pyrrolidin-3-yl)methanol | 154 mg | CC1=C(C(=CC=C1)C)N1CC(CC1)CO | C13H19NO
